US05252538
Preparation of diethyl 6-[2-(dimethylamino)vinyl]-5-nitro-2,3-pyridinedicarboxylate
Diethyl 6-[2-(dimethylamino)styryl]-5-nitro-2,3-pyridinedicarboxylate is also prepared, using the above method, from N,N-dimethylbenzamide diethyl acetal and diethyl 6-methyl-5-nitro-2,3-pyridinedicarboxylate. A modification in the procedure of the latter is that upon cooling the dark red solution is partitioned between ether and water. The ethereal layer is separated and concentrated in vacuo to a dark red oil, which was carried on without purification.

reactant | Diethyl 6-[2-(dimethylamino)styryl]-5-nitro-2,3-pyridinedicarboxylate | CN(C1=C(C=CC2=C(C=C(C(=N2)C(=O)OCC)C(=O)OCC)[N+](=O)[O-])C=CC=C1)C | C21H23N3O6
reactant | N,N-dimethylbenzamide diethyl acetal | C(C)OC(C1=CC=CC=C1)(N(C)C)OCC | C13H21NO2
reactant | diethyl 6-methyl-5-nitro-2,3-pyridinedicarboxylate | CC1=C(C=C(C(=N1)C(=O)OCC)C(=O)OCC)[N+](=O)[O-] | C12H14N2O6
product | diethyl 6-[2-(dimethylamino)vinyl]-5-nitro-2,3-pyridinedicarboxylate | CN(C=CC1=C(C=C(C(=N1)C(=O)OCC)C(=O)OCC)[N+](=O)[O-])C | C15H19N3O6
